US08049016B2
Synthesis of 1-benzyl-3-(4-methyl-5-(5-methyl-4H-1,2,4-triazol-3-yl)thiazol-2-yl)imidazolidin-2-one
To a solution of 2-(3-benzyl-2-oxoimidazolidin-1-yl)-4-methylthiazole-5-carboxamide (0.20 g, 0.63 mmol) in 1,4 dioxane (10 mL) was added N,N-dimethylacetamide dimethyl acetal (1.0 mL, 6.80 mmol). The reaction mixture was heated to reflux for 5 hours and concentrated in vacuo. The residue was dissolved in acetic acid (10 mL) and hydrazine monohydrate (0.1 mL, 2.0 mmol) was added. The reaction mixture was heated for 3 hours at 90° C. and concentrated in vacuo. The residue was dissolved in saturated sodium bicarbonate (10 mL) and extracted with chloroform. The organic solution was washed with water and brine, dried over anhydrous sodium sulfate and filtered. The filtrate was concentrated in vacuo and the residue was triturated with ethyl acetate to afford the title in 65% yield (0.15 g): mp 284-287° C. (ethyl acetate); 1H NMR (300 MHz, DMSO-d6) δ 13.6 (br s, 1H), 7.33-7.26 (m, 5H), 4.40 (s, 2H), 3.99-3.94 (m, 2H), 3.44-3.39 (m, 2H), 2.52 (s, 3H), 2.33 (s, 3H); 13C NMR (75 MHz, DMSO-d6) δ 156.9, 155.7, 153.6, 145.6, 136.9, 129.1, 128.2, 127.9, 47.4, 42.4, 42.1, 17.1, 12.1; MS (ES+) m/z 355.2 (M+1).

reactant | 2-(3-benzyl-2-oxoimidazolidin-1-yl)-4-methylthiazole-5-carboxamide | 0.63 mmol, 0.20 g | C(C1=CC=CC=C1)N1C(N(CC1)C=1SC(=C(N1)C)C(=O)N)=O | C15H16N4O2S
reactant | N,N-dimethylacetamide dimethyl acetal | 6.80 mmol, 1.0 mL | COC(C)(N(C)C)OC | C6H15NO2
reactant | hydrazine monohydrate | 2.0 mmol, 0.1 mL | O.NN
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | 1,4 dioxane | 10 mL | O1CCOCC1 | C4H8O2
product | 1-benzyl-3-(4-methyl-5-(5-methyl-4H-1,2,4-triazol-3-yl)thiazol-2-yl)imidazolidin-2-one | 65% yield | C(C1=CC=CC=C1)N1C(N(CC1)C=1SC(=C(N1)C)C1=NN=C(N1)C)=O | C17H18N6OS
